US06706663B2
Preparation of 2-Chloro-5-nitrophenyl 1-methylpyrrol-2-yl ketone
To a mixture of n-butyllithium (2.5 M in hexanes, 100 ml, 0.250 mol) and tetrahydrofuran at room temperature is added N-methylpyrrole (40.6 g, 0.500 mol) dropwise over 30 minutes. The resultant mixture is stirred 90 minutes at 35-40° C. and cooled to −70° C. Zinc chloride (0.5 M in tetrahydrofuran, 500 ml, 0.25 mol) is added dropwise such that the temperature does not exceed −60° C. The resultant mixture is allowed to warm to 0° C. and stirred one hour at 0° C. A solution of 2-chloro-5-nitrobenzoyl chloride (60.5 g, 0.275 mol) in tetrahydrofuran is added, followed by tetrakis triphenylphosphine palladium (5.00 g). The resultant mixture is allowed to warm to room temperature, stirred overnight, and quenched with 10% aqueous hydrochloric acid. The organic layer is saved and the aqueous layer is extracted with ethyl acetate. The organic layers are combined, washed with saturated sodium bicarbonate and brine and dried over anhydrous magnesium sulfate. Concentration in vacuo affords a maroon gum, which is chromatographed on silica gel with hexanes-ethyl acetate to afford the title compound as a yellow solid (12.7 g, 19.2%, mp 108.5-109.5° C.) which is identified by IR and NMR spectral analysis. Using an essentially identical procedure and the appropriate heterocycle the following ketones are prepared:

reactant | n-butyllithium | 0.250 mol, 2.5 M, 100 ml | C(CCC)[Li]
reactant | N-methylpyrrole | 0.500 mol, 40.6 g | CN1C=CC=C1 | C5H7N
reactant | 2-chloro-5-nitrobenzoyl chloride | 0.275 mol, 60.5 g | ClC1=C(C(=O)Cl)C=C(C=C1)[N+](=O)[O-] | C7H3Cl2NO3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | Zinc chloride | 0.25 mol, 0.5 M, 500 ml | [Cl-].[Zn+2].[Cl-]
product | 2-Chloro-5-nitrophenyl 1-methylpyrrol-2-yl ketone | 12.7 g, 19.2% | CN1C(=CC=C1)C(=O)C1=C(C=CC(=C1)[N+](=O)[O-])Cl | C12H9ClN2O3
